US04088816
1.9 g. (12.5 mmol.) of DL-2-thienylglycine and 1 g. of magnesium oxide are suspended in 50 mmol. of water. After stirring for 1/2 hour, 3 g. (15 mmol.) of (p-methoxybenzyloxycarbonyl)azide in 25 ml. of dioxane are added. After stirring for 48 hours at room temperature, the mixture is filtered. The filtrate is extracted with 200 ml. of ether. The aqueous phase is layered over with an equal volume of ethyl acetate and vigorously stirred with 20 g. of ion exchange resin (Dowex 50, acid form) for 2 hours. The ethyl acetate is separated, washed with 100 ml. of water, dried and concentrated. A light oil remains as residue which crystallizes on trituration with petroleum ether. The DL-α-[[[(4-methoxyphenyl)methoxy]carbonyl]amino]-2-thiopheneacetic acid obtained melts at 153°-156°.

reactant | 2-thienylglycine | S1C(=CC=C1)NCC(=O)O | C6H7NO2S
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | water | O | H2O
reactant | (p-methoxybenzyloxycarbonyl)azide | 15 mmol | COC1=CC=C(COC(=O)N=[N+]=[N-])C=C1 | C9H9N3O3
reactant | dioxane | O1CCOCC1 | C4H8O2
product | α-[[[(4-methoxyphenyl)methoxy]carbonyl]amino]-2-thiopheneacetic acid | COC1=CC=C(C=C1)COC(=O)NC(C(=O)O)C=1SC=CC1 | C15H15NO5S
